US07338974B2
Step I (1): A mixture of (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-difluorophenyl)butan-2-ol (73 mg, 0.183 mmol) from stepE(2), 2-(2-oxopyrrolidin-1-yl)pent-4-enoic acid (35 mg, 0.192 mmol) from stepA(2), EDC (35 mg, 0.183 mmol), HOBt (25 mg, 0.192 mmol), DIEA (0.155 mL, 0.870 mmol) in 3 mL of DMF were stirred at room temperature for 18 h. The crude product was purified using reverse phase preparatory HPLC to provide two diastereomers. The fractions containing products were neutralized with solid NaHCO3 prior to concentration in vacuo. Water was added to the solid residues, the aqueous mixtures were extracted with EtOAc, the organic layers were dried over Na2SO4, filtered and concentrated in vacuo to provide 28.4 mg (28% yield) of (S)—N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-difluorophenyl)-3-hydroxybutan-2-yl)-2-(2-oxopyrrolidin-1-yl)pent-4-enamide (diastereomer A, first to elute) and 38.6 mg (38% yield) of (R)—N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-difluorophenyl)-3-hydroxybutan-2-yl)-2-(2-oxopyrrolidin-1-yl)pent-4-enamide (diastereomer B, second to elute). Data for diastereomer A: LC-MS (M+H)+=584.37, HRMS (M+H)+=584.2927; 1H NMR (500 MHz, CDCl3) δ 7.30 (d, J=8.24 Hz, 1H), 6.91 (d, J=2.14 Hz, 1H), 6.83 (dd, J=8.24, 2.44 Hz, 1H), 6.65-6.80 (m, J=6.10, 6.10 Hz, 2H), 6.54-6.68 (m, 2H), 5.85-6.06 (m, 1H), 5.51-5.72 (m, 1H), 5.31 (dd, J=17.24, 1.68 Hz, 1H), 5.18 (dd, J=10.38, 1.53 Hz, 1H), 4.94-5.12 (m, 2H), 4.77 (dd, J=6.26, 4.43 Hz, 1H), 4.52 (dd, J=9.00, 6.56 Hz, 1H), 3.96-4.24 (m, 4H), 3.79 (s, 3H), 3.39-3.59 (m, 1H), 3.03-3.35 (m, 2H), 2.75-2.93 (m, 2H), 2.46-2.76 (m, 4H), 2.20-2.40 (m, 2H), 2.07-2.22 (m, 1H), 1.79-1.96 (m, 2H), 1.66-1.81 (m, 1H). Data for diasteomer B: LC-MS (M+H)+=584.97; HRMS (M+H)+=584.2955; 1H NMR (500 MHz, CDCl3) δ 7.29 (d, J=8.54 Hz, 1H), 6.97-7.13 (m, 1H), 6.89-6.97 (m, 1H), 6.83 (dd, J=8.39, 2.29 Hz, 1H), 6.73 (m, 2H), 6.57-6.67 (m, 1H), 5.80-6.05 (m, 1H), 5.41-5.59 (m, 1H), 5.24-5.39 (m, 1H), 5.17 (d, J=10.38 Hz, 1H), 4.88-5.10 (m, 2H), 4.67-4.84 (m, 1H), 4.35 (dd, J=8.55, 7.02 Hz, 1H), 3.96-4.23 (m, 4H), 3.70-3.87 (m, 3H), 3.50-3.64 (m, 1H), 3.24-3.45 (m, 2H), 3.00 (dd, J=14.19, 4.12 Hz, 1H), 2.80 (dd, J=12.21, 3.36 Hz, 1H), 2.54-2.76 (m, 3H), 2.39-2.55 (m, 1H), 2.19-2.43 (m, 3H), 1.75-1.99 (m, 3H).

reactant | (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-difluorophenyl)butan-2-ol | 0.183 mmol, 73 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O | C23H28F2N2O3
reactant | 2-(2-oxopyrrolidin-1-yl)pent-4-enoic acid | 0.192 mmol, 35 mg | O=C1N(CCC1)C(C(=O)O)CC=C | C9H13NO3
reactant | EDC | 0.183 mmol, 35 mg
reactant | HOBt | 0.192 mmol, 25 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.870 mmol, 0.155 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)—N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-1-(3,5-difluorophenyl)-3-hydroxybutan-2-yl)-2-(2-oxopyrrolidin-1-yl)pent-4-enamide | 28.4 mg, 28% yield | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC([C@H](CC=C)N1C(CCC1)=O)=O)O | C32H39F2N3O5
